US04513005
A solution of chlorine (1.56 g) in carbon tetrachloride (23 ml) was added dropwise to a stirred solution of diphenyl disulphide (4.0 g) in carbon tetrachloride (50 ml) at 5° to 10° C. The yellow solution was stirred for 10 minutes at 5° to 10° C. then a solution of (Z)-6-phenyl-5-hexenoic acid (5.2 g) and triethylamine (3.8 ml) in carbon tetrachloride (50 ml) was added at 5° to 10° C. The mixture was stirred for 2 hours at room temperature then evaporated under vacuum. A solution of the residue in ether was washed with dilute hydrochloric acid, then with dilute sodium hydroxide solution, dried and concentrated to give crystals of 7-phenyl-6-phenylthio-2-oxepanone, m.p. 166° C. The mother liquor was evaporated and the residue was chromatographed on silica gel in ethyl acetate:petroleum spirit (1:3) to give an oil which crystallised from ether to give rel-(6R,αR)-6-(α-phenylthiobenzyl)-tetrahydro-2H-pyran-2-one, m.p. 82° to 84° C.

reactant | chlorine | 1.56 g | ClCl | Cl2
reactant | diphenyl disulphide | 4.0 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | (Z)-6-phenyl-5-hexenoic acid | 5.2 g | C1(=CC=CC=C1)\C=C/CCCC(=O)O | C12H14O2
reactant | triethylamine | 3.8 ml | C(C)N(CC)CC | C6H15N
solvent | carbon tetrachloride | 23 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-phenyl-6-phenylthio-2-oxepanone | C1(=CC=CC=C1)C1C(CCCC(O1)=O)SC1=CC=CC=C1 | C18H18O2S
